US04970207
To a suspension of (3RS)-1,3-dihydro-1-[[2-(2-tetrahydropyranyl) -3-oxo-2,3-dihydroisoxazol-5-yl]methyl]-3-(2- indolylcarbonylamino) -5-phenyl-1,4-benzodiazepine-2-one (212.9 mg) in methanol (4 ml) was added 2N hydrochloric acid under stirring at room temperature. Tetrahydrofuran (1 ml) was added thereto in order to gain a clear solution, which was stirred at the same temperature for 30 minutes. The reaction mixture was evaporated to dryness to afford yellow powder, which was washed with ether by stirring overnight, collected by filtration and dried to give (3RS)-1,3-dihydro-1-[(3-hydroxyisoxazol-5-yl)methyl]-3-(2-indolylcarbonylamino) -5-phenyl-1,4-benzodiazepine-2-one (149.1 mg) as yellow powder.

reactant | (3RS)-1,3-dihydro-1-[[2-(2-tetrahydropyranyl) -3-oxo-2,3-dihydroisoxazol-5-yl]methyl]-3-(2- indolylcarbonylamino) -5-phenyl-1,4-benzodiazepine-2-one | 212.9 mg | O1C(CCCC1)N1OC(=CC1=O)CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O | C33H29N5O5
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | Tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | (3RS)-1,3-dihydro-1-[(3-hydroxyisoxazol-5-yl)methyl]-3-(2-indolylcarbonylamino) -5-phenyl-1,4-benzodiazepine-2-one | 149.1 mg | OC1=NOC(=C1)CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)C=2NC1=CC=CC=C1C2)=O | C28H21N5O4
